US06172045B2
The N-methyl glycine-linked DOTA-biotin conjugate was prepared by an analogous method to that used to prepare D-analine-linked DOTA-biotin conjugates. N-methyl-glycine (trivial name carcosine, available from Sigma Chemical Co.) was condensed with biotin-NHS ester in DMF and triethylamine to obtain N-methyl glycyl-biotin. N-methyl-glycyl biotin was then activated with EDCI and NHS. The resultant NHS ester was not isolated and was condensed in situ with DOTA-aniline and excess pyridine. The reaction solution was heated at 60° C. for 10 minutes and then evaporated. The residue was purified by preparative HPLC to give [N-methyl-N-biotinyl)-N-glycyl]-aminobenzyl-DOTA.

reactant | N-methyl glycine | CNCC(=O)O | C3H7NO2
reactant | DOTA biotin | C1CN(CCN(CCN(CCN1CC(=O)O)CC(=O)O)CC(=O)O)CC(=O)O.OC(=O)CCCC[C@@H]1SC[C@@H]2NC(=O)N[C@H]12
solvent | DMF | CN(C)C=O | C3H7NO
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | N-methyl glycyl-biotin | CNCC(=O)C(C(O)=O)CCC[C@@H]1SC[C@@H]2NC(=O)N[C@H]12 | C13H21N3O4S
